US08124766B2
4-(4-{5-[(1-Ethyl-4-isobutoxy-1H-indole-2-carbonyl)-amino]-pyridin-2-yl}-piperazin-1-yl)-2,2-dimethyl-4-oxo-butyric acid hydrochloric acid
With a method similar to that used for the preparation of 4-(4-{5-[(4-chloro-benzo[b]thiophene-2-carbonyl)-amino]-pyridin-2-yl}-piperazin-1-yl)-2,2-dimethyl-4-oxo-butyric acid, 4-(4-{5-[(1-ethyl-4-isobutoxy-1,1-indole-2-carbonyl)-amino]-pyridin-2-yl}-piperazin-1-yl)-2,2-dimethyl-4-oxo-butyric acid was prepared from 1-ethyl-4-isobutoxy-1H-indole-2-carboxylic acid (6-piperazin-1-yl-pyridin-3-yl)-amide and 2,2-dimethylsuccinic anhydride. The desired product was dissolved in methylene chloride and treated with gaseous hydrogen chloride in ether. After the evaporation of solvents, a hydrochloride salt was obtained. LCMS for C30H39N5O5 calcd. (m/e) 549, observed 550 (M+H).

reactant | 4-(4-{5-[(4-chloro-benzo[b]thiophene-2-carbonyl)-amino]-pyridin-2-yl}-piperazin-1-yl)-2,2-dimethyl-4-oxo-butyric acid | ClC1=CC=CC=2SC(=CC21)C(=O)NC=2C=CC(=NC2)N2CCN(CC2)C(CC(C(=O)O)(C)C)=O | C24H25ClN4O4S
reactant | 1-ethyl-4-isobutoxy-1H-indole-2-carboxylic acid (6-piperazin-1-yl-pyridin-3-yl)-amide | N1(CCNCC1)C1=CC=C(C=N1)NC(=O)C=1N(C2=CC=CC(=C2C1)OCC(C)C)CC | C24H31N5O2
reactant | 2,2-dimethylsuccinic anhydride | CC1(C(=O)OC(C1)=O)C | C6H8O3
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 4-(4-{5-[(1-Ethyl-4-isobutoxy-1H-indole-2-carbonyl)-amino]-pyridin-2-yl}-piperazin-1-yl)-2,2-dimethyl-4-oxo-butyric acid hydrochloric acid | Cl.C(C)N1C(=CC2=C(C=CC=C12)OCC(C)C)C(=O)NC=1C=CC(=NC1)N1CCN(CC1)C(CC(C(=O)O)(C)C)=O | InChI=1S/C30H39N5O5.ClH/c1-6-35-23-8-7-9-25(40-19-20(2)3)22(23)16-24(35)28(37)32-21-10-11-26(31-18-21)33-12-14-34(15-13-33)27(36)17-30(4,5)29(38)39;/h7-11,16,18,20H,6,12-15,17,19H2,1-5H3,(H,32,37)(H,38,39);1H
